US06166028
Benzoic acid 2-{4-[3-(4-acetylamino-phenyl)-thioureido]-2,6-dichloro-phenoxy }-ethyl ester
To an ice cooled solution of N-(4-{3-[3,5-dichloro-4-(2-hydroxy-ethoxy)-phenyl]-thioureido}-phenyl)-acetamide (0.20 g) in pyridine (2 mL) and tetrahydrofuran (0.5 mL) is added benzoyl chloride (0.08 g) and the mixture is stirred at 0° C. for 1.5 hours. The mixture is then diluted with ethyl acetate, washed successively two times with 2% aqueous hydrochloric acid, once with saturated aqueous sodium chloride, then dried over anhydrous sodium sulfate. After removal of the solvent under reduced pressure the residue is chromatographed over silica gel (5% methanol in dichloromethane is used as the eluant) and product containing fractions are combined, evaporated under reduced pressure, and the residue is recrystallized from acetone-hexanes to provide the desired product as a white powder.

reactant | N-(4-{3-[3,5-dichloro-4-(2-hydroxy-ethoxy)-phenyl]-thioureido}-phenyl)-acetamide | 0.20 g | ClC=1C=C(C=C(C1OCCO)Cl)NC(NC1=CC=C(C=C1)NC(C)=O)=S | C17H17Cl2N3O3S
reactant | benzoyl chloride | 0.08 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzoic acid 2-{4-[3-(4-acetylamino-phenyl)-thioureido]-2,6-dichloro-phenoxy }-ethyl ester | C(C)(=O)NC1=CC=C(C=C1)NC(NC1=CC(=C(OCCOC(C2=CC=CC=C2)=O)C(=C1)Cl)Cl)=S | C24H21Cl2N3O4S
